US05700798
2-(2-Methyl-2-trifluoromethyl-6-phenylsulfonyl-3,4-dihydro-2H-1,4-benzoxazin-4-yl)pyridine-N-oxide.
A solution of 2-methyl-2-trifluoromethyl-6-phenylsulfonyl-3,4-dihydro-2H-1,4-benzoxazine (200 mg) and 2-chloropyridine N-oxide·HCl (121 mg;) in dimethylsulfoxide (8 mL) was treated with sodium hydride (60% dispersion in oil, 58 mg), and stirred under a nitrogen atmosphere for 18 hours. The mixture was then poured into a solution containing aqueous sodium hydroxide (0.5 N, 150 mL) and saturated sodium chloride (20 mL.) and extracted with ethyl acetate. (3×150 mL). The combined organic portions were washed with aqueous sodium hydroxide (0.5 N, 30 mL) and saturated sodium chloride (5 mL) and evaporated to yield a black semi-solid. Chromatography of this solid on silica gel eluting with ethyl acetate then ethyl acetate/methanol (97:3) yielded the title compound (110 mg) as a white solid; mp 192°-193° C.; NMR (250 MHz, d6-DMSO): 1.55 (s,3), 3.98 (dd,2), 6.8.1 (s,1), 7.20 (d,1), 7.40 (dd, 1), 7.45 (m,2), 7.62 (m,4) 7.85 (dd,2), 8.42 (d, 1); MS: m/z=451(M+1). Analysis for C21H17F3N2O4S: Calculated: C, 56.00; H, 3.78; N, 6.22; Found: C, 56.10; H, 3.88; N, 6.02.

reactant | 2-methyl-2-trifluoromethyl-6-phenylsulfonyl-3,4-dihydro-2H-1,4-benzoxazine | 200 mg | CC1(OC2=C(NC1)C=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C(F)(F)F | C16H14F3NO3S
reactant | 2-chloropyridine N-oxide·HCl | 121 mg | ClC1=[N+](C=CC=C1)[O-].Cl
reactant | sodium hydride | 58 mg | [H-].[Na+]
reactant | sodium hydroxide | 0.5 N, 150 mL | [OH-].[Na+]
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Methyl-2-trifluoromethyl-6-phenylsulfonyl-3,4-dihydro-2H-1,4-benzoxazin-4-yl)pyridine-N-oxide | 110 mg | CC1(OC2=C(N(C1)C1=[N+](C=CC=C1)[O-])C=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C(F)(F)F | C21H17F3N2O4S
